US05972965
To a solution of (5R)-5-(4,5-diphenyloxazol-2-yl)pyrrolidin-2-one (12 g) in tetrahydrofuran (THF) (200 ml) were added butyllithium (26 ml, 1.6N solution in hexane) and benzyloxycarbonyl chloride (6.8 ml) at -78° C. under N2. The mixture was stirred for 1 hour at the same temperature and partitioned between ethyl acetate and water. The organic layer was washed with 1N-HCl, water, sat. NaHCO3 and brine. The dried solvent was evaporated in vacuo, the residue was dissolved in THF (200 ml), and 1N-NaOH (87 ml) was added at 0° C. After being stirred for 12 hours at room temperature, the solvent was evaporated in vacuo. After the residue was partitioned between hexane and water, aqueous layer was adjusted to pH=2 and extracted with ethyl acetate. The organic layer was washed with water, sat. NaHCO3 and brine. The dried solvent was evaporated in vacuo and the residue was dissolved in THF (200 ml). To the solution were added triethylamine (9.0 ml) and ethyl chloroformate (5.0 ml) at ±5° C. under N2 and the mixture was stirred for 1 hour at the same temperature. After the filtration, the solution was dropwise added to the solution of NaBH4 (3.2 g) in a mixture of THF (100 ml) and water (100 ml) at 0° C. and stirred for 1 hour. The mixture was partitioned between ethyl acetate and water. The organic layer was washed with 1N-HCl, sat. NaHCO3 and brine. The dried solvent was evaporated in vacuo and the residue was purified by chromatography on silica gel to give (1R)-N-benzyloxycarbonyl-4-hydroxy-1-(4,5-diphenyloxazol-2-yl)butylamine (13 g). MS (m/z): 443 (M+ +1) IR (Neat): 3300, 1700 cm-1NMR (CDCl3, δ): 1.6-2.2 (4H, m), 3.68 (2H, m), 5.10-5.2 (1H, m), 5.14 (2H, s), 5.73 (1H, d, J=10.0 Hz), 7.2-7.7 (10H, m)

reactant | (5R)-5-(4,5-diphenyloxazol-2-yl)pyrrolidin-2-one | 12 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)[C@H]1CCC(N1)=O | C19H16N2O2
reactant | butyllithium | 1.6N, 26 ml | C(CCC)[Li]
reactant | benzyloxycarbonyl chloride | 6.8 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | (1R)-N-benzyloxycarbonyl-4-hydroxy-1-(4,5-diphenyloxazol-2-yl)butylamine | 13 g | C(C1=CC=CC=C1)OC(=O)N[C@H](CCCO)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26N2O4
